US05478941
A solution of 11.4 g (0.1 mole) of methanesulfonyl chloride in 17.1 ml of dichloromethane is cooled to 5° C. A solution of 13 g (0.05 mole) of N,N-bis(2-hydroxyethyl)-4-methylbenzenesulfonamide and 10.1 g (0.1 mole) of triethylamine in 52 ml of dichloromethane is then added dropwise with stirring. The resulting mixture is allowed to return to ambient temperature and stirred for a further 3 hours. The reaction mixture is then extracted three times with 40 ml water. The organic phase is dried over sodium sulfate, filtered and concentrated in a rotating evaporator. The resulting oil is then crystallized from ethanol. 17.8 g of 4-methyl-N,N-bis[2-methylsulfonyloxy) ethyl]benzenesulfonamide are obtained.

reactant | methanesulfonyl chloride | 0.1 mole, 11.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-bis(2-hydroxyethyl)-4-methylbenzenesulfonamide | 0.05 mole, 13 g | OCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCO | C11H17NO4S
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 17.1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 52 ml | ClCCl | CH2Cl2
product | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
